US09193720B2
A mixture of (S)-ethyl 2-(5-(4-(benzyloxy)-3-fluorophenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (0.019 g, 0.033 mmol) and LiOH (7.89 mg, 0.329 mmol) in 9:1 EtOH/H2O (2 mL) was refluxed for 3 h. Then, cooled and purified by prep-HPLC to afford (S)-2-(5-(4-(benzyloxy)-3-fluorophenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetic acid (0.0162 g, 0.030 mmol, 90% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.47-7.51 (m, 2H), 7.42 (dt, J=3.0, 7.3 Hz, 2H), 7.34-7.39 (m, 1H), 7.08 (t, J=8.4 Hz, 1H), 7.03 (dd, J=1.9, 11.5 Hz, 0.5H), 6.89-6.94 (m, 1H), 6.80 (d, J=8.2 Hz, 0.5H), 5.83 (br. s., 0.6H), 5.78 (br. s., 0.4H), 5.18-5.26 (m, 2H), 2.74 (s, 1.3H), 2.72 (s, 1.7H), 2.27 (s, 1.7H), 2.26 (s, 1.3H), 1.26-1.39 (m, 4H), 1.23 (s, 9H), 0.82 (br. s., 6H). 4H of piperidine were not resolved. LCMS (M+H)=549.47.

reactant | (S)-ethyl 2-(5-(4-(benzyloxy)-3-fluorophenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 0.033 mmol, 0.019 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1C(=C(C(=NC1C)C)[C@@H](C(=O)OCC)OC(C)(C)C)N1CCC(CC1)(C)C)F | C35H45FN2O4
reactant | LiOH | 0.329 mmol, 7.89 mg | [Li+].[OH-]
solvent | EtOH H2O | 2 mL | CCO.O
product | (S)-2-(5-(4-(benzyloxy)-3-fluorophenyl)-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetic acid | 0.030 mmol, 0.0162 g, 90% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1C(=C(C(=NC1C)C)[C@@H](C(=O)O)OC(C)(C)C)N1CCC(CC1)(C)C)F | C33H41FN2O4
